US05218109
IN 2 ml of methanol was dissolved 73 mg of 1α,3β-diacetoxypregna-5,7-diene-20-carbaldehyde, followed by addition of 5 mg of potassium carbonate. The mixture was stirred at room temperature for 12 hours. The reaction mixture was poured into water and extracted with diethyl ether, and the extract was washed with aqueous sodium chloride solution, dried over sodium sulfate and concentrated. The residue was recrystallized from ether to give 49 mg of 1α,3β-dihydroxypregna-5,7-diene-20-carbaldehyde which showed the same 1H NMR spectrum as the 1α,3β-dihydroxypregna-5,7-diene-20-carbaldehyde obtained in Reference Example 2.

reactant | 1α,3β-diacetoxypregna-5,7-diene-20-carbaldehyde | 73 mg | C(C)(=O)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@H](C(C)C=O)[C@]4(CC[C@@H]3[C@@]12C)C)OC(C)=O | C26H36O5
reactant | potassium carbonate | 5 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | methanol | 2 ml | CO | CH4O
product | 1α,3β-dihydroxypregna-5,7-diene-20-carbaldehyde | 49 mg | O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@H](C(C)C=O)[C@]4(CC[C@@H]3[C@@]12C)C)O | C22H32O3
